US07576095B2
Step 10 1-(2,4-dichlorophenyl)-2-(4-hydroxyphenyl)-3-methyl-5-piperidin-1-yl-1,5-dihydro-4H-pyrrolo[3,2-c]pyridin-4-one
A suspension of 1-(2,4-dichlorophenyl)-2-(4-hydroxyphenyl)-3-methyl-5-piperidin-1-yl-1,5,6,7-tetrahydro-4H-pyrrolo[3,2-c]pyridin-4-one (153 mg, 0.325 mmol) and DDQ (295 mg, 1.301 mmol) in 1,4-dioxane (12 ml) was stirred at rt for 1 h and 20 min followed by 1 h and 50 min at 35° C. and 2 h and 50 min at 45° C. The solvent was evaporated and the product purified by hplc. The solvent was evaporated and water added. The product was extracted from the water phase with DCM and EtOAc. The combined organic phases were evaporated and the residue was re-suspended in toluene and evaporated to yield the product as a yellow solid (74 mg, 49%). MS m/z 468 (M+H)+.

reactant | 1-(2,4-dichlorophenyl)-2-(4-hydroxyphenyl)-3-methyl-5-piperidin-1-yl-1,5,6,7-tetrahydro-4H-pyrrolo[3,2-c]pyridin-4-one | 0.325 mmol, 153 mg | ClC1=C(C=CC(=C1)Cl)N1C(=C(C=2C(N(CCC21)N2CCCCC2)=O)C)C2=CC=C(C=C2)O | C25H25Cl2N3O2
reactant | DDQ | 1.301 mmol, 295 mg | C(#N)C1=C(C(=O)C(=C(C1=O)Cl)Cl)C#N | C8Cl2N2O2
solvent | 1,4-dioxane | 12 ml | O1CCOCC1 | C4H8O2
product | 1-(2,4-dichlorophenyl)-2-(4-hydroxyphenyl)-3-methyl-5-piperidin-1-yl-1,5-dihydro-4H-pyrrolo[3,2-c]pyridin-4-one | 74 mg, 49% | ClC1=C(C=CC(=C1)Cl)N1C(=C(C=2C(N(C=CC21)N2CCCCC2)=O)C)C2=CC=C(C=C2)O | C25H23Cl2N3O2
